US08431593B2
D. TERT-BUTYL[(3R)-1-({5-[(ADAMANTAN-1-YLMETHYL)CARBAMOYL]-IMIDAZO[1,2-A]PYRIDIN-2-YL}METHYL)PYRROLIDIN-3-YL]CARBAMATE
A mixture of N-(adamantanylmethyl)-2-(chloromethyl)imidazo[1,2-a]pyridine-5-carboxamide (HCl salt, 700 mg, 1.78 mmol), tert-butyl (3R)-pyrrolidin-3-ylcarbamate (496 mmol, 2.66 mmol) and potassium carbonate (615 mg, 4.45 mmol) in DMF (25 mL) is stirred at RT for 20 h. The reaction mixture is diluted with EtOAc and water. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. Purification of the residue by silica gel chromatography (10% MeOH, 1% NH4OH in DCM) affords the title compound. 1H-NMR (δ, ppm, CDCl3 as internal standard): 8.35 (s, 1H), 7.69 (d, J=8.7 Hz, 1H), 7.15 (dd, J=7.2 and 9.0 Hz, 1H), 7.08 (d, J=6.9 Hz, 1H), 6.33 (t, J=5.7 Hz, 1H), 4.16 (m, 1H), 3.85 (d, J=13.5 Hz, 1H), 3.78 (d, J=13.2 Hz, 1H), 3.2 (d, J=6.6 Hz, 2H), 2.91-2.64 (m, 2H), 2.44-2.21 (m, 2H), 2.02 (m, 3H), 1.77-1.58 (m, 15H), 1.41 (s, 9H).

reactant | N-(adamantanylmethyl)-2-(chloromethyl)imidazo[1,2-a]pyridine-5-carboxamide | 1.78 mmol, 700 mg | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)CCl | C20H24ClN3O
reactant | tert-butyl (3R)-pyrrolidin-3-ylcarbamate | 496 mmol | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | potassium carbonate | 4.45 mmol, 615 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | TERT-BUTYL[(3R)-1-({5-[(ADAMANTAN-1-YLMETHYL)CARBAMOYL]-IMIDAZO[1,2-A]PYRIDIN-2-YL}METHYL)PYRROLIDIN-3-YL]CARBAMATE | C(C)(C)(C)OC(N[C@H]1CN(CC1)CC=1N=C2N(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)C1)=O | C29H41N5O3
